US04024183
A solution of 3-(3-p-chlorophenylureido)aniline (2.0 g.) in pyridine (40 ml.) is stirred at 0° C. with isopropyl isothiocyanate (0.77 ml.). The solution is allowed to warm slowly to room temperature and is stirred for 48 hours. The solution is filtered, the pyridine is removed by distillation under reduced pressure and the residue is crystallized from methanol (300 ml.) to give 1-(3-isopropylthioureido)-3-(3-p-chlorophenylureido)benzene, m.p. 197°-198° C. with decomposition.

reactant | 3-(3-p-chlorophenylureido)aniline | 2.0 g | ClC1=CC=C(C=C1)NC(NC=1C=C(N)C=CC1)=O | C13H12ClN3O
reactant | isopropyl isothiocyanate | 0.77 ml | C(C)(C)N=C=S | C4H7NS
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-isopropylthioureido)-3-(3-p-chlorophenylureido)benzene | C(C)(C)NC(NC1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)Cl)=S | C17H19ClN4OS
